US07361671B2
A solution of 5-allyl-6-ethyl-pyridin-3-yl-acetic acid methyl ester (1.00 g, 4.56 mmol) in 50% methanol in dichloromethane solution (25 mL, 0.2 M) is cooled to −78° C. and treated with ozone. After the solution became blue (30 min), it is purged with nitrogen and treated with dimethyl sulfide (1.7 mL, 23 mmol). After stirring overnight the solvent is removed in vacuo and the product is purified by flash chromatography (50% ethyl acetate in n-heptane) to provide 6-ethyl-5-(2-oxo-ethyl)-pyridin-3-yl-acetic acid methyl ester as a clear oil (0.78 g, 78%): Rf 0.26 (50% ethyl acetate in n-heptane), 1H NMR (CDCl3, 300 MHz) δ 9.77 (s, 1 H), 8.41 (s, 1 H), 7.43 (s, 1 H), 3.76 (s, 2 H), 3.72 (s, 3 H), 3.62 (s, 2 H), 2.77 (q, J=7.5 Hz, 2H), 1.27 (t, J=7.5 Hz, 3H). ESI-LCMS m/z calcd for C12H15NO3: 221.1; found 222.0 (M+1)+.

reactant | 5-allyl-6-ethyl-pyridin-3-yl-acetic acid methyl ester | 4.56 mmol, 1.00 g | COC(CC=1C=NC(=C(C1)CC=C)CC)=O | C13H17NO2
reactant | ozone | O=[O+][O-] | O3
reactant | dimethyl sulfide | 23 mmol, 1.7 mL | CSC | C2H6S
solvent | methanol | CO | CH4O
solvent | dichloromethane | 0.2 M, 25 mL | ClCCl | CH2Cl2
product | 6-ethyl-5-(2-oxo-ethyl)-pyridin-3-yl-acetic acid methyl ester | 0.78 g, 78% | COC(CC=1C=NC(=C(C1)CC=O)CC)=O | C12H15NO3
